US09289419B2
Step-2: Synthesis of tert-butyl 5-(2,5-difluorophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate
2.0 M Isopropyl magnesium chloride solution in THF (163 mL, 324.3 mmol) was added to a solution of 2-bromo-1,4-difluorobenzene (62.5 g, 324.3 mmol) in THF (350 mL) at −40° C. and stirring was continued at 5° C. for 1 h. tert-Butyl 2-oxopyrrolidine-1-carboxylate (Step-1)(73 g, 392 mmol) in THF (150 mL) was added dropwise to above reaction mixture at −40° C. and stirring was continued at 10° C. for 2 h. Reaction mixture was quenched with saturated NH4Cl solution, extracted with EtOAc, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford 76 g of the title compound.

reactant | Isopropyl magnesium chloride | 2.0 M | C(C)(C)[Mg]Cl
reactant | 2-bromo-1,4-difluorobenzene | 324.3 mmol, 62.5 g | BrC1=C(C=CC(=C1)F)F | C6H3BrF2
reactant | tert-Butyl 2-oxopyrrolidine-1-carboxylate | 392 mmol, 73 g | O=C1N(CCC1)C(=O)OC(C)(C)C | C9H15NO3
solvent | THF | 350 mL | C1CCOC1 | C4H8O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 324.3 mmol, 163 mL | C1CCOC1 | C4H8O
product | tert-butyl 5-(2,5-difluorophenyl)-2,3-dihydro-1H-pyrrole-1-carboxylate | 76 g | FC1=C(C=C(C=C1)F)C1=CCCN1C(=O)OC(C)(C)C | C15H17F2NO2
